Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Dr. ___ is a ___ year-old man who is a retired ___ with a 
history of HTN, HLD, and intention tremor who presents with 3 
unwitnessed falls over the last 36 hours and rapidly progressing 
skin erythema initially in his RLE, now spreading up his medial 
right thigh. 
.
Several days ago had viral URI.  Began having unsteady gait, 
several falls, once after urinating on toilet.  Has been 
complaining of proximal myalgias and weakness.  After one fall 
he felt confused, "warm," and "wobbly."  Fall was atraumatic.  
.
Over next few days, pt was feeling more and more weak with an 
additional fall.  
.
He then realized a large erythematous rash on ankle, warm and 
painful to touch.  Pt also was febrile at this time.  
.
The patient denies CP, SOB, dizziness, and palpitations prior to 
all episodes. He reports no changes in vision or headaches. No 
rhythmic movements or tongue biting after falls. He denies a 
personal or family history of seizures. No past cardiac 
arrythmias or other cardiac disease. He does report feeling 
dehydrated in the days leading up to admission. 
.
In the ED, initial vital signs were: ___ 108/57 16 97% RA. 
Urine tox and blood tox were both negative. CBC showed WBC 12.3. 
Chem 7 BUN 25, Cr 1.6. UA showed spec ___ 1.022, large blood, 1 
RBC. 9 granular casts. He was given 1000ml ___. A blood 
culture was sent and he was started on Vancomycin ???. EKG 
showed NSR rate of 86 Normal PR. Normal QRS. Normal axis. Low 
voltage. 
.
On transfer, VS were 110/68 80 18 98.2. On the floor, the 
patient was reported that he was mentating normally and was in 
no pain. He reports dark "coco-cola" colored urine since this 
morning. 
.

 
Past Medical History:
- HTN
- HLD
- GERD
- Onychomycosis (right toenails. Has had for many years)
- Tremor - has not sought medical attention for this, but 
reports hat it is an infrequent intention tremor that he first 
noticed several years ago.
- Low back pain 
.
Past Surgical History: Inguinal hernia repair (___)
 
Social History:
___
Family History:
Father died at ___ with "rapidly progressing Alzheimer's. Mother 
died at ___ of unknown causes. Reports no family history of 
heart disease or seizures. Has three healthy sons.
.  

 
Physical Exam:
Vitals: T: 98.8 BP: 111/69 P: 88 R: 20 O2: 95% (RA)  
General: Alert and oriented in NAD.  
HEENT: Head is normalocephalic and atraumatic. PERRL, 
Extraocular muscles intact, sclera anicteric, MMM, oropharynx 
clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing or cyanosis. 
erythematous, swollen R lower extremity extending into thigh.  
Neuro: CNs2-12 intact. Motor function is ___ for upper 
extremities. ___ for hip flexion. 4+/5 for knee flexion. ___orsiflexion, and plantarflexion. Some proximal 
muscle atrophy noted. Sensation is intact to fine touch for 
upper and lower extremities. Fine finger movements are slightly 
retarded. Finger to nose testing reveals a significant bilateral 
intention tremor. The patient employs a broad base stance and is 
unsteady on his feet with a straight legged gait.  

 
Pertinent Results:
___ 06:10PM   GLUCOSE-156* UREA N-21* CREAT-1.3* SODIUM-134 
POTASSIUM-3.3 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
___ 06:10PM   CK(CPK)-7875*
___ 06:10PM   CK-MB-12* MB INDX-0.2 cTropnT-<0.01
___ 06:10PM   CALCIUM-8.5 PHOSPHATE-1.4* MAGNESIUM-1.6
___ 06:10PM   TSH-1.4
___ 06:10PM   CRP-199.0*
___ 07:31AM URINE  COLOR-DKAMBER APPEAR-Hazy SP ___
___ 07:31AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:31AM URINE  RBC-1 WBC-3 BACTERIA-MOD YEAST-NONE 
EPI-0
___ 07:31AM URINE  GRANULAR-9*
___ 07:31AM URINE  MUCOUS-FEW
___ 07:13AM   LACTATE-1.6
___ 07:00AM   GLUCOSE-140* UREA N-25* CREAT-1.6* SODIUM-134 
POTASSIUM-3.5 CHLORIDE-96 TOTAL CO2-23 ANION GAP-19
___ 07:00AM   estGFR-Using this
___ 07:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:00AM   WBC-12.3* RBC-4.55* HGB-15.3 HCT-42.8 MCV-94 
MCH-33.5* MCHC-35.7* RDW-13.3
___ 07:00AM   NEUTS-88.3* LYMPHS-8.4* MONOS-2.9 EOS-0.2 
BASOS-0.1
___ 07:00AM   PLT COUNT-147*
.

___ 06:00AM BLOOD WBC-5.5 RBC-4.20* Hgb-13.6* Hct-39.0* 
MCV-93 MCH-32.5* MCHC-34.9 RDW-12.9 Plt ___
___ 07:00AM BLOOD Neuts-88.3* Lymphs-8.4* Monos-2.9 Eos-0.2 
Baso-0.1
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-115* UreaN-13 Creat-0.9 Na-139 
K-3.6 Cl-104 HCO3-26 AnGap-13
CK

___ 06:10PM BLOOD CK(CPK)-7875*
___ 01:43AM BLOOD CK(CPK)-5837*
___ 06:45AM BLOOD CK(CPK)-4478*
___ 06:00AM BLOOD ___
.

___ 06:45AM BLOOD CK-MB-9 cTropnT-0.01
___ 01:43AM BLOOD CK-MB-10 MB Indx-0.2 cTropnT-0.01
___ 06:10PM BLOOD CK-MB-12* MB Indx-0.2 cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.0
___ 06:45AM BLOOD VitB12-423 Folate-8.7
___ 06:10PM BLOOD TSH-1.4
___ 06:10PM BLOOD CRP-199.0*
___ 07:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:00AM BLOOD HoldBLu-HOLD
___ 07:00AM BLOOD LtGrnHD-HOLD
___ 07:13AM BLOOD Lactate-1.6
.
RPR nonreactive
.
CXR
 IMPRESSION: Left lower lobe atelectasis without focal 
consolidation.  
Age-indeterminate mild compression deformity in a mid-thoracic 
vertebral body. 
Correlate clinically for acuity. 
.
CT Head
IMPRESSION: No CT evidence for acute intracranial process. 
  
.
___
IMPRESSION: No evidence of right lower extremity deep venous 
thrombosis.
.

 
Brief Hospital Course:
___ year-old man with a history of HTN, HLD, and intention tremor 
who presents with 3 falls followed by weakness over the last 2 
days and rapidly progressing skin erythema initially in his RLE, 
now spreading up his medial right thigh. 
.
# Cellulitis - The patient presented with warm, erythematous and 
tender RLE with leukocytosis.  There is a clear source of skin 
breakdown on pt's heal, which is likely source of infection.  Pt 
reported subjective fevers at home, decreased PO intake and 
several recent falls.  Pt remained afebrile during hospital 
course.  He was started on vancomycin and unasyn for double gram 
positive coverage.  Borders were marked and regressed with 
initiation of antibiotic therapy.  He remained afebrile and he 
was transitioned to PO Bactrim and Dicloxicillin for a 10 day 
antibiotic course.  
.
Rhabdomyolysis: On admission pt was found to have elevated 
creatinine at 1.6 and UA was positive for blood without red 
blood cells.  A CK was checked and was elevated at approximately 
___.  Prior to admission pt had decreased PO intake, likely 
from infection and also had several falls and leg weakness.  Pt 
was  treated with aggressive fluid resuscitation and his CK 
decreased appropriately.  His acute kidney injury improved and 
creatine returned to baseline.
.
# Falls/Confusion: Reported recent decreased PO intake and 
extreme leg weakness leading to his falls.  Most likely that his 
rhabdo led to feelings of muscle weakness.  He was monitored on 
tele and did not have any significant arrhythmogenic events.  
RPR, TSH and orthostatics were checked and all unremarkable.  A 
head CT was performed in ED and did not reveal any acute 
intracranial abnormality.  
. 

# HTN - Pt's HCTZ and lisinopril were held on admission because 
___ ___ rhabdo.  After aggressive fluid resuscitation and 
improvement of kidney function, pt remained normotensive so on 
discharge his antihypertensives were discontinued.  Restarting 
antihypertensive meds should be considered by PCP if 
hypertensive on follow up.  
.
# HLD - Pt was on lipitor and niacin on admission to hospital.  
These medications could have contributed to rhabdo and were held 
throughout hospitalization.  At time of discharge both niacin 
and lipitor were held given risk of reccurent rhabdo.  
Restarting statin and niacin will need to be discussed with PCP 
at outpatient followup.    
.
# GERD - Pt was continued on home dose of omeprazole.
Transitional
- follow up with PCP, likely does not need such agressive BP 
control, and niacin statin combo could have contributed to 
rhabdo.
.
Code: Full (discussed with patient)  
.  

 
___ on Admission:
- Lisinopril 10 mg PO daily
 - HCTZ 25 mg PO daily
 - Lipitor 20 mg PO daily
 - "Long-acting nicotinic acid"
 - Omeprazole
 - Aspirin 81 mg PO daily
.  

 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO EVERY OTHER DAY (Every Other Day).    
3. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 8 days: end on ___.
Disp:*16 Tablet(s)* Refills:*0*
4. dicloxacillin 250 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) for 8 days: end on ___.
Disp:*32 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
Rhabdomyolysis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure taking care of you.  You were admitted to the 
hospital for falls and cellulitis.  We also discovered that you 
had rhabdomyolysis.  The etiology of rhabdomyolysis was likely 
multifactorial and secondary to dehydration/hypovolemia in 
setting of statin and niacin use as well as hypokalemia on 
admission.  We treated you with IV hydration and your kidney 
function returned to baseline and your CK blood levels trended 
down indicating that the rhabdo had resolved.  

Your cellulitis was initially treated with IV antibiotics and 
improved.  We transitioned you to an oral antibiotic regimen to 
complete a ___nding on ___.

The following changes were made to your medications:
1. Stopped niacin and Lipitor as possibly contributed to your 
rhabdomyolysis
2. Holding your lisinopril and HCTZ as your blood pressures 
normalized without these medications.  Please discuss restarting 
these with your PCP.
3. Started Bactrim and Dicloxicillin for your cellulitis, please 
complete a 10 day course to end on ___
 
Followup Instructions:
___